data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2290,2538,[CH3:1][O:2]/[C:3]([Br:4])=[C:5](/[Br:6])[O:7][CH3:8].[CH3:9][O:10][C:11](=[O:12])[C:13](=[NH+:14][C-:15]([CH3:16])[C:17](=[O:18])[O:19][CH3:20])[C:21](=[O:22])[O:23][CH3:24]>>[CH3:1][O:2][C@:3]1([Br:4])[C@:5]([Br:6])([O:7][CH3:8])[C:15]([CH3:16])([C:17](=[O:18])[O:19][CH3:20])[NH:14][C:13]1([C:11]([O:10][CH3:9])=[O:12])[C:21](=[O:22])[O:23][CH3:24],water,298.15,33.64625184311499,-4.885301011371818
532,581,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1.[N:13]#[C:14][CH-:15][N+:16]#[C:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:15]([C:14]#[N:13])[N:16]=[C:17]1[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,14.310258441927235,-63.69609633508478
3664,4184,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[N:10]#[C:11][C:12]#[N+:13][N-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:12]([C:11]#[N:10])=[N:13][N:14]1[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,15.374259664908411,-38.74779631888664
5160,5858,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[N+:18]([CH3:19])[C-:20]([C:21](=[O:22])[O:23][CH3:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:16]#[N:17])[N:18]([CH3:19])[C:20]2([C:21](=[O:22])[O:23][CH3:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,21.046125448463645,-18.435714952740987
4230,4840,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[NH+:15][CH-:16][C:17]#[N:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:16]([C:17]#[N:18])[NH:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:19](=[O:20])[O:21][CH3:22],water,298.15,23.452094309180364,-11.745151049418189
2591,2872,[CH3:14][NH:15][C:16](=[O:17])[C:18]([C:19]([CH3:20])=[O:21])=[N+:22]([CH3:23])[N-:24][c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[N:1]#[C:2][C:3]1([Br:4])[C:5]#[C:6][C:7]([Cl:8])([Cl:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[N:1]#[C:2][C:3]1([Br:4])[C:5]2=[C:6]([C:7]([Cl:8])([Cl:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:18]([C:16]([NH:15][CH3:14])=[O:17])([C:19]([CH3:20])=[O:21])[N:22]([CH3:23])[N:24]2[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,23.706948711194897,-33.69811967991246
4363,4984,[CH3:9][NH:10][C:11](=[O:12])[c-:13]1[c:14](=[O:15])[o:16][c:17]([C:18](=[O:19])[O:20][CH3:21])[n+:22]1[CH3:23].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:13]2([C:11]([NH:10][CH3:9])=[O:12])[C:14](=[O:15])[O:16][C:17]1([C:18](=[O:19])[O:20][CH3:21])[N:22]2[CH3:23],water,298.15,19.487448198468645,-10.454067020052396
1832,2030,[CH3:15][O:16][C:17](=[O:18])[CH:19]=[N+:20]([CH3:21])[C-:22]([C:23]#[N:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[CH:19]([C:17]([O:16][CH3:15])=[O:18])[N:20]([CH3:21])[C:22]3([C:23]#[N:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,16.916479695531176,-41.64990685520786
4830,5512,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:16]([C:17](=[O:18])[O:19][CH3:20])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:15]=[C:14]1[C:12]([NH:11][CH3:10])=[O:13],water,298.15,19.11194416174929,-35.20558779402498
5251,5956,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15](=[NH+:16][C-:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[NH:16][C:15]2([C:13]([O:12][CH3:11])=[O:14])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1,water,298.15,37.568166923250935,-8.428984107620598
3416,3886,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][CH-:16][C:17]#[N:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH:16]([C:17]#[N:18])[N:15]=[C:14]1[C:12]([NH:11][CH3:10])=[O:13],water,298.15,19.779282410103185,-42.322681039797246
